US07906503B2
Step 2: 3-[(1S)-1-(3,5-difluorophenyl)-2-fluoro-2-methylpropyl]-1-(diphenylmethyl)azetidine
To a solution of 5.5 g (13.5 mmole) of (1S)-1-(3,5-difluorophenyl)-1-[1-(diphenylmethyl)azetidin-3-yl]-2-methylpropan-2-ol in 25 mL of CH2Cl2 was added 15 mL of hydrogen fluoride-pyridine and the two-phase mixture was stirred for 15 h at 42° C. Then the reaction mixture was poured to 100 mL of 5N NaOH, 20 mL of aq NaHCO3, 150 mL of CH2Cl2 and 100 mL ice. The pH was adjusted to 8-9 with 2N NaOH. The water layer was extracted with CH2Cl2 (3×1500 mL). The combined organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with 10% methyl tert-butyl ether-hexane to afford the title compound as a white solid; 1NMR (CDCl3) δ 1.25 (t, J=22 Hz, 6H), 2.33 (t, J=6.5 Hz, 1H), 2.83-2.89 (m, 2H), 3.09-3.11 (m, 2H), 3.60 (m, 1H), 4.30 (s, 1H), 6.68-6.71 (m, 3H), 7.21-7.8 (m, 10H); Mass Spectrum: m/e=410 (M+1)

reactant | (1S)-1-(3,5-difluorophenyl)-1-[1-(diphenylmethyl)azetidin-3-yl]-2-methylpropan-2-ol | 13.5 mmole, 5.5 g | FC=1C=C(C=C(C1)F)[C@@H](C(C)(O)C)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27F2NO
reactant | hydrogen fluoride-pyridine | 15 mL | N1=CC=CC=C1.F
reactant | NaOH | 5N, 100 mL | [OH-].[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-[(1S)-1-(3,5-difluorophenyl)-2-fluoro-2-methylpropyl]-1-(diphenylmethyl)azetidine | FC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H26F3N
